US06559100B1
Step a: Methyl 2-Chloro-3-(2-nitroethenyl)-4-sulfonylmethylbenzoate
With the exclusion of atmospheric moisture, 50 g (0.18 mol) of methyl 2-chloro-3-formyl-4-sulfonylmethylbenzoate, 220 g (3.6 mol) of nitromethane, 216 g (3.6 mol) acetic acid and 7 g (91 mmol) of ammonium acetate are stirred at 85° C. The reaction mixture is poured into 2 l of distilled water and extracted with diethyl ether. The organic phase is washed with saturated aqueous sodium bicarbonate solution, dried with sodium sulfate, filtered and freed from the solvent under reduced pressure. The crude product is recrystallized from n-hexane/ethyl acetate. Yield: 13.1 g, m.p. 147-150° C.

reactant | methyl 2-chloro-3-formyl-4-sulfonylmethylbenzoate | 0.18 mol, 50 g | ClC1=C(C(=O)OC)C=CC(=C1C=O)C=S(=O)=O | C10H7ClO5S
reactant | nitromethane | 3.6 mol, 220 g | [N+](=O)([O-])C | CH3NO2
reactant | acetic acid | 3.6 mol, 216 g | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 91 mmol, 7 g | C(C)(=O)[O-].[NH4+]
solvent | water | 2 l | O | H2O
product | Methyl 2-Chloro-3-(2-nitroethenyl)-4-sulfonylmethylbenzoate | ClC1=C(C(=O)OC)C=CC(=C1C=C[N+](=O)[O-])C=S(=O)=O | C11H8ClNO6S
